US04831151
0.985 g (5 mmol) of 1,3-diamino-4-(chloromethyl)-2-methylimidazolium chloride and 7.45 g (50 mmol) of 4-dimethylaminobenzaldehyde are dissolved in 250 ml of glacial acetic acid. The solution is left to stand at room temperature for 36 hours and evaporated. The residue is placed on a column loaded with 150 g of silica gel (particle size 0.063-0.2 mm) and the product is eluted with chloroform/methanol (9:1). The eluate is evaporated and the product is crystallized from ethanol/ether. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-4-(chloromethyl)-2-methylimidazolium chloride of melting point 188° (dec.)

reactant | 1,3-diamino-4-(chloromethyl)-2-methylimidazolium chloride | 5 mmol, 0.985 g | [Cl-].N[N+]1=C(N(C(=C1)CCl)N)C
reactant | 4-dimethylaminobenzaldehyde | 50 mmol, 7.45 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-4-(chloromethyl)-2-methylimidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C(=C2)CCl)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C | InChI=1S/C23H28ClN6.ClH/c1-18-29(25-15-19-6-10-21(11-7-19)27(2)3)17-23(14-24)30(18)26-16-20-8-12-22(13-9-20)28(4)5;/h6-13,15-17H,14H2,1-5H3;1H/q+1;/p-1
